US06987116B2
To the suspension of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[(trimethylsilyl)ethynyl]thieno[3,2-b]pyridine-6-carbonitrile (97 mg, 0.22 mmol) in 10 mL of methanol is added potassium carbonate (46 mg, 0.33 mmol) The mixture is stirred at room temperature for 30 minutes, concentrated in vacuo and then partitioned between water and ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 1:1 ethyl acetate:hexane to provide 38 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-ethynylthieno[3,2-b]pyridine-6-carbonitrile as white crystals, mp 198-200° C.; 1H NMR (DMSO-d6) δ 3.85 (s, 3H), 5.01 (s, 1H), 7.38 (s, 1H), 7.72 (s, 1H), 7.79 (s, 1H), 8.63 (s, 1H), 9.85 (s, 1H); MS 372.0 (M−H)−.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[(trimethylsilyl)ethynyl]thieno[3,2-b]pyridine-6-carbonitrile | 0.22 mmol, 97 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C#C[Si](C)(C)C | C20H17Cl2N3OSSi
reactant | potassium carbonate | 0.33 mmol, 46 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-ethynylthieno[3,2-b]pyridine-6-carbonitrile | 38 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C#C | C17H9Cl2N3OS
